US08012998B2
h) [(3RS,4SR)-3-[(RS)-2-(tert-Butyl-dimethyl-silanyloxy)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-1-yl]-(2-methyl-pyrimidin-5-yl)-methanone
To a solution of 2-{(RS)-2-(tert-Butyl-dimethyl-silanyloxy)-1-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine (8A-1) (220 mg) in DMF (12 mL) at −20° C. were added Hunig base (0.132 mL, 0.78 mmol) and then HATU (202 mg). The mixture was diluted with ethyl acetate and washed with aq.ammonium chloride solution three times and aq. sodium bicarbonate solution. The separated organic phase was dried over sodium sulfate and concentrated in vaccuo after filtration. The residue was purified by TLC (SiO2, MeOH/DCM, 1:20) yielded 24 mg (40%) of the title compound as a light yellow oil. ES-MS m/e: 623.1 M+H+).

reactant | 2-{(RS)-2-(tert-Butyl-dimethyl-silanyloxy)-1-[(3RS,4SR)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine | 220 mg | C(C)(C)(C)[Si](OCC(OC1=NC=C(C=C1)Cl)C1CNCC1C1=CC(=C(C=C1)Cl)Cl)(C)C | C23H31Cl3N2O2Si
reactant | Hunig base | 0.78 mmol, 0.132 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 202 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(3RS,4SR)-3-[(RS)-2-(tert-Butyl-dimethyl-silanyloxy)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidin-1-yl]-(2-methyl-pyrimidin-5-yl)-methanone | 24 mg, 40% | C(C)(C)(C)[Si](OCC(OC1=NC=C(C=C1)Cl)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)C=1C=NC(=NC1)C)(C)C | C29H35Cl3N4O3Si
